US04550105
In a mixture of 25 ml of water and 25 ml of tetrahydrofuran is dissolved 500 mg of sodium cis-3-{2-(2-amino-4-thiazolyl)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetamido}-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (syn-isomer), followed by addition of 500 mg of 10% palladium-on-carbon. The mixture is stirred in a hydrogen atmosphere at room temperature for one hour. After addition of 25 ml of an aqueous solution of sodium hydrogen carbonate (62 mg), the catalyst is filtered off and the filtrate is washed with ethyl acetate and concentrated under reduced pressure. The residue is chromatographed on an Amberlite XAD-II column and lyophilized to give cis-3-[2-(2-amino-4-thiazolyl)-2-(1-methyl-1-carboxyethyloxyimino)acetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonic acid disodium salt (syn-isomer).

reactant | sodium cis-3-{2-(2-amino-4-thiazolyl)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetamido}-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | 500 mg | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC(C)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C.[Na+]
reactant | hydrogen | [H][H] | H2
reactant | sodium hydrogen carbonate | 62 mg | C(O)([O-])=O.[Na+]
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 500 mg | [Pd] | Pd
product | cis-3-[2-(2-amino-4-thiazolyl)-2-(1-methyl-1-carboxyethyloxyimino)acetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonic acid disodium salt | [Na+].[Na+].NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC(C)(C(=O)O)C.NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC(C)(C)C(=O)O | InChI=1S/2C14H17N5O10S2.2Na/c2*1-14(2,12(23)24)29-18-6(5-4-30-13(15)16-5)9(20)17-7-8(11(22)28-3)19(10(7)21)31(25,26)27;;/h2*4,7-8H,1-3H3,(H2,15,16)(H,17,20)(H,23,24)(H,25,26,27);;/q;;2*+1/p-2/t2*7-,8-;;/m00../s1
